US05223498
Reaction of 6-methyl-2-piperidinoaniline (6.4 g) in dioxan (20 ml) and water (65 ml) with thiophosgene (5.7 g) at 0° C. for 30 minutes and at room temperature for 2 hours gave 6-methyl-2-piperidinophenyl isothiocyanate as an oil.

reactant | 6-methyl-2-piperidinoaniline | 6.4 g | CC1=CC=CC(=C1N)N1CCCCC1 | C12H18N2
reactant | thiophosgene | 5.7 g | C(=S)(Cl)Cl | CCl2S
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 65 ml | O | H2O
product | 6-methyl-2-piperidinophenyl isothiocyanate | CC1=CC=CC(=C1N=C=S)N1CCCCC1 | C13H16N2S
